US04337355
The catalytic reduction was carried out in the same manner as in Example 1 except that the water-containing acetic acid was employed in an amount of 3 times (Example 15) or 8.8 times (Example 16) the weight of 4-hydroxymandelic acid. The yields of 4-hydroxyphenylacetic acid were 78% by mole (Example 15) and 95% by mole (Example 16).

reactant | water | O | H2O
reactant | 4-hydroxymandelic acid | OC1=CC=C(C(C(=O)O)O)C=C1 | C8H8O4
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-hydroxyphenylacetic acid | OC1=CC=C(C=C1)CC(=O)O | C8H8O3
